US04845267
PREPARATION OF 4-AMINO-5-FLUOROPENTANOIC ACID
A mixture of 0.65 g (3.4 mmol) of 4-carboxymethylamino-5-fluoropentanoic acid and 10 ml of concentrated hydrochloric acid was prepared in a 50 ml flask and heated at reflux overnight. The volatiles were then removed by evaporation under reduced pressure and the gummy residue was dissolved in water and purified by ion exchange chromatography using DOWEX® 50 X-8 resin. The solution was loaded onto the rinsed column, washed with water, and eluted with 6 percent aqueous hydrochloric acid. Evaporation of the product-containing fractions gave 0.42 g (71 percent of theory) of the title compound as an oily crystalline material which tenaciously retained water. This was recrystallized from ethyl acetate/acetic acid to obtain the desired product as white crystals melting at 129°-134° C. and having the expected proton and carbon nmr spectra.

reactant | 4-carboxymethylamino-5-fluoropentanoic acid | 3.4 mmol, 0.65 g | C(=O)(O)CNC(CCC(=O)O)CF | C7H12FNO4
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 4-AMINO-5-FLUOROPENTANOIC ACID | NC(CCC(=O)O)CF | C5H10FNO2
